US07514437B2
A solution of 2,4-difluorobenzonitrile (6.03 g, 43.35 mmol) and morpholine (8.3 ml, 95.17 mmol) in tetrahydrofuran (27 ml) was stirred at room temperature for 24 hr. The mixture was evaporated and the white solid purified by Biotage™ column (90 g, silica) eluting with cyclohexane:ethyl acetate: (4:1) to give 2-fluoro-4-(morpholino)-benzonitrile as a white solid (5.81 g, 65%).

reactant | 2,4-difluorobenzonitrile | 43.35 mmol, 6.03 g | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
reactant | morpholine | 95.17 mmol, 8.3 ml | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 27 ml | O1CCCC1 | C4H8O
product | 2-fluoro-4-(morpholino)-benzonitrile | 5.81 g, 65% | FC1=C(C#N)C=CC(=C1)N1CCOCC1 | C11H11FN2O
